US05128351
5-Methyl-3-[[3-[[[3-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide
A mixture of 4 g of N-[3-(bromomethyl)phenyl]-3-(tetradecyloxy)benzeneacetamide and 3.84 g of 5-methylthiazole in 40 ml of toluene is refluxed for 1.5 hours under argon, cooled and the solvent evaporated to a residue. The residue is mixed with ether and the solid collected by centrifugation. The solid is washed several times with ether then dried by vacuum to give 4.3 g of the desired product as an off white powder, m.p. 125°-130° C.

reactant | N-[3-(bromomethyl)phenyl]-3-(tetradecyloxy)benzeneacetamide | 4 g | BrCC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
reactant | 5-methylthiazole | 3.84 g | CC1=CN=CS1 | C4H5NS
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-[[3-[[[3-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide | 4.3 g | [Br-].CC1=C[N+](=CS1)CC1=CC(=CC=C1)NC(CC1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C33H46N2O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-21-37-32-20-16-17-29(23-32)24-33(36)34-31-19-15-18-30(22-31)26-35-25-28(2)38-27-35;/h15-20,22-23,25,27H,3-14,21,24,26H2,1-2H3;1H
